US08623889B2
Step 1: tert-butyl 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate
A mixture of tert-butyl N-(7-chloro-2,6-naphthyridin-3-yl)carbamate (460 mg, 1.65 mmol), (4-methyl-3-pyridyl)boronic acid (450 mg, 3.3 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (117 mg, 0.165 mmol) and saturated aqueous sodium carbonate solution (0.5 mL) in acetonitrile (5 mL) was heated under microwave irradiation (Biotage) at 130° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate (150 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (12 g, Silica, 0-10% methanol in dichloromethane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (190 mg, 34%), which was used in the next step without further purification.

reactant | tert-butyl N-(7-chloro-2,6-naphthyridin-3-yl)carbamate | 1.65 mmol, 460 mg | ClC1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O | C13H14ClN3O2
reactant | (4-methyl-3-pyridyl)boronic acid | 3.3 mmol, 450 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.165 mmol, 117 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | tert-butyl 7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate | 190 mg, 34% | CC1=C(C=NC=C1)C1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O | C19H20N4O2
